US04761420
A solution of 2,6-dimethyl-3-carbomethoxy-4-(3-nitrophenyl)-5-(3-[4-(2-hydroxyethyl)phenoxy]propoxycarbonyl)-1,4-dihydropyridine (125 g, 0.252 moles) in acetone (700 mL) is stirred at reflux for 8 hours with K2CO3 (48 g, 0.35 mol) and n-bromopropane (61.5 g, 0.5 mol). After evaporation of the solvent, the crude product is purified by flash chromatography (solvent=93:7 CH2Cl2 :acetone) to yield 2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(3-[4-(2-propoxyethyl)phenoxy]propoxycarbonyl)-1,4-dihydropyridine as an oil.

reactant | 2,6-dimethyl-3-carbomethoxy-4-(3-nitrophenyl)-5-(3-[4-(2-hydroxyethyl)phenoxy]propoxycarbonyl)-1,4-dihydropyridine | 0.252 moles, 125 g | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCCOC1=CC=C(C=C1)CCO)C | C27H30N2O8
reactant | K2CO3 | 0.35 mol, 48 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 700 mL | CC(=O)C | C3H6O
product | 2,6-dimethyl-3-methoxycarbonyl-4-(3-nitrophenyl)-5-(3-[4-(2-propoxyethyl)phenoxy]propoxycarbonyl)-1,4-dihydropyridine | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCCCOC1=CC=C(C=C1)CCOCCC)C | C30H36N2O8
